US04737513
27 ml of a 1M solution of oxalyl chloride in methylene chloride were cooled to -60° C. and 13.5 ml of a 1M solution of dimethyl sulfoxide in methylene chloride were added. After stirring for 5 minutes, a solution of 1.09 g of 3-hydroxymethyl-1-(2-propynyl)-1H-pyrrole-2-carbonitrile in 20 ml of methylene chloride was added, and the temperature was kept at -60° C. for 2 hours. 70 ml of a 1M solution of triethylamine in methylene chloride were added with stirring for 10 minutes at -60° C., and the temperature was allowed to rise to 20° C. 20 ml of water were added, followed by stirring, decanting and concentrating to dryness. The residue was chromatographed over silica and eluted with a mixture of hexane and ethyl acetate (6-4) to obtain 456 mg of 3-formyl-2-cyano-1-(2-propynyl)-1H-pyrrole.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 3-hydroxymethyl-1-(2-propynyl)-1H-pyrrole-2-carbonitrile | 1.09 g | OCC1=C(N(C=C1)CC#C)C#N | C9H8N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 3-formyl-2-cyano-1-(2-propynyl)-1H-pyrrole | 456 mg | C(=O)C1=C(N(C=C1)CC#C)C#N | C9H6N2O
